US06291450B1
Preparation of 3-(3,3-Dibenzylureido)-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-terahydro-1H-azepine-2-carboxylic acid
3-(3,3-Dibenzylureido)-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid tert-butyl ester (200 mg, 0.33 mMol) is reacted in the same manner as 3-Benzyloxycarbonylamino-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid tert-butyl ester and purified by flash-chromatography, Dichloromethane/Methanol (9:1) to afford the free acid: Cal. 550.6 found (M)+=550.

reactant | 3-(3,3-Dibenzylureido)-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid tert-butyl ester | 0.33 mMol, 200 mg | C(C)(C)(C)OC(=O)C1N(CC=CCC1NC(=O)N(CC1=CC=CC=C1)CC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C33H39N3O6S
reactant | 3-Benzyloxycarbonylamino-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1N(CC=CCC1NC(=O)OCC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C26H32N2O7S
product | 3-(3,3-Dibenzylureido)-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-terahydro-1H-azepine-2-carboxylic acid | C(C1=CC=CC=C1)N(C(NC1C(N(CC=CC1)S(=O)(=O)C1=CC=C(C=C1)OC)C(=O)O)=O)CC1=CC=CC=C1 | C29H31N3O6S
